US09227918B2
To a solution of 0.580 g (1.98 mmol) of methyl 3-(2-(tert-butoxycarbonyl(methyl)amino)ethyl)benzoate in 5 mL of dioxane was added 10 mL of 1 N NaOH. The mixture was stirred at 22° C. for 2 h and then acidified to ca. pH 1 with 1 N HCl. The mixture was then extracted with DCM (4×25 mL), dried (Na2SO4) and evaporated to give 3-(2-(tert-butoxycarbonyl(methyl)amino)ethyl)benzoic acid as a foamy white solid which was subsequently used without purification.

reactant | methyl 3-(2-(tert-butoxycarbonyl(methyl)amino)ethyl)benzoate | 1.98 mmol, 0.580 g | C(C)(C)(C)OC(=O)N(CCC=1C=C(C(=O)OC)C=CC1)C | C16H23NO4
reactant | NaOH | 1 N, 10 mL | [OH-].[Na+]
reactant | HCl | 1 N | Cl | ClH
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 3-(2-(tert-butoxycarbonyl(methyl)amino)ethyl)benzoic acid | C(C)(C)(C)OC(=O)N(CCC=1C=C(C(=O)O)C=CC1)C | C15H21NO4
